US09422240B2
4-(6-Cyclopropyl-3-pyridinyl)benzaldehyde
A mixture of 3-bromo-6-(cyclopropyl)pyridine (2.00 g), 4-formylphenylboronic acid (1.82 g), palladium(II) acetate (113 mg), tripotassium phosphate (4.50 g) and ethylene glycol (16.8 mL) was stirred at 80° C. for 3 hours. After cooling the reaction mixture to room temperature, water was added to it and two extractions were conducted with ethyl acetate. The combined organic layers were washed with saturated brine and thereafter the crude product was adsorbed on diatomaceous earth, with the solvent being distilled off under reduced pressure. The crude product adsorbed on the diatomaceous earth was purified by silica gel column chromatography (hexane:ethyl acetate=98:2-50:50) to give the titled compound as a colorless solid (1.81 g).

reactant | 3-bromo-6-(cyclopropyl)pyridine | 2.00 g | BrC=1C=NC(=CC1)C1CC1 | C8H8BrN
reactant | 4-formylphenylboronic acid | 1.82 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | tripotassium phosphate | 4.50 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | ethylene glycol | 16.8 mL | C(CO)O | C2H6O2
catalyst | palladium(II) acetate | 113 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-(6-Cyclopropyl-3-pyridinyl)benzaldehyde | 1.81 g | C1(CC1)C1=CC=C(C=N1)C1=CC=C(C=O)C=C1 | C15H13NO
